US07902252B2
4.4. Synthesis of ethyl 6-phenethyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized from ethyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.3 g, 1.55 mmol) and phenethylmagnesium bromide (7.5 mL, 0.5 M in THF, 3.7 mmol) according to General Procedure 3 to afford 96.5 mg of (E/Z)-ethyl 6-(2-phenylethylidene)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate, followed by General Procedure 6 to give 87.3 mg of ethyl 6-phenethyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate in 90% purity. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.55 (br. s., 1H), 7.29-7.35 (m, 2H), 7.19-7.26 (m, 3H), 6.64 (d, J=1.59 Hz, 1H), 4.23-4.33 (m, 2H), 3.02-3.13 (m, 1H), 2.51-2.82 (m, 5H), 1.94-2.14 (m, 2H), 1.78-1.90 (m, 1H), 1.34 (t, J=7.13 Hz, 3H).

reactant | ethyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 1.55 mmol, 0.3 g | O=C1CCC2=C1NC(=C2)C(=O)OCC | C10H11NO3
reactant | phenethylmagnesium bromide | 3.7 mmol, 0.5 M, 7.5 mL | C(CC1=CC=CC=C1)[Mg]Br
product | ethyl 6-phenethyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | C(CC1=CC=CC=C1)C1CCC2=C1NC(=C2)C(=O)OCC | C18H21NO2
